US08975400B2
3-(2-fluoro-4-formylphenoxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 3-hydroxybenzonitrile.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3-hydroxybenzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
product | 3-(2-fluoro-4-formylphenoxy)benzonitrile | FC1=C(OC=2C=C(C#N)C=CC2)C=CC(=C1)C=O | C14H8FNO2
